US06894061B2
3-Chloro-6-methylphenanthridine
N-(4-Chloro-1,1′-biphenyl-2-yl)acetamide (2.65 g, 10.8 mmol) was mixed with polyphosphoric acid (50 g) and heated to 120° C. with vigorous stirring for 12 hours. The hot reaction mixture was poured into a beaker containing ice and stirred vigorously until homogeneous. The solution was neutralized to a pH>8 with concentrated aqueous ammonia. A white precipitate formed and was filtered. The white solid was dissolved in ethyl acetate (250 mL) and re-filtered. The filtrate was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and the solvent concentrated in vacuo to a brown solid. The brown solid was purified by trituration with ethyl acetate/hexane to afford the title compound as white crystals (2.28 g, 93%), m.p. 129-131° C.;

reactant | N-(4-Chloro-1,1′-biphenyl-2-yl)acetamide | 10.8 mmol, 2.65 g | ClC1=CC(=C(C=C1)C1=CC=CC=C1)NC(C)=O | C14H12ClNO
reactant | ammonia | N | H3N
product | 3-Chloro-6-methylphenanthridine | 2.28 g, 93% | ClC=1C=CC2=C3C=CC=CC3=C(N=C2C1)C | C14H10ClN
